US08735589B2
Preparation of 2-(1H-indol-5-yl)-ethanesulfonic Acid Methylamide
N-[4-(2-methylsulfamoyl-ethyl)-2-trimethylsilanylethynyl-phenyl]-acetamide (100 gm) was dissolved in N-methylpyrrolidone (900 ml) at 25° C. under inert atmosphere. Potassium tert-butoxide (49 g) was added and heated to 80-85° C. for 120-150 minutes. The reaction mass was cooled gradually to 25° C., water (3000 ml) was added and stirred for 30 minutes. The solution was extracted with ethyl acetate (2000 ml). The organic layer was dried over sodium sulfate and vacuum distilled to obtain a residue. The residue was treated with heptane (300 ml) to obtain a solid. The solid was filtered, washed with heptane and dried at 50-55° C. under vacuum to obtain title compound. (Yield: 74 g, HPLC Purity: 98%)

reactant | N-[4-(2-methylsulfamoyl-ethyl)-2-trimethylsilanylethynyl-phenyl]-acetamide | 100 gm | CNS(=O)(=O)CCC1=CC(=C(C=C1)NC(C)=O)C#C[Si](C)(C)C | C16H24N2O3SSi
reactant | Potassium tert-butoxide | 49 g | CC(C)([O-])C.[K+]
reactant | water | 3000 ml | O | H2O
reactant | heptane | 300 ml | CCCCCCC | C7H16
solvent | N-methylpyrrolidone | 900 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(1H-indol-5-yl)-ethanesulfonic Acid Methylamide | CNS(=O)(=O)CCC=1C=C2C=CNC2=CC1 | C11H14N2O2S
